US04820715
(B) 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide
To stirred concentrated ammonium hydroxide (6 ml) was added 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride (3.0 grams, 0.0093 mole) and the mixture stirred an additional five minutes followed by the addition of three to four ml of water and another five minute stirring. After filtration the solid was washed two times with three ml of water each time to give, after drying, 2.37 g of the title compound, mp 134°-136° C. NMR spectrum (90 MHz) in CDCl3 gave the following resonances δ: 7.26 (s, 1H); 6.90 (s, 1H); 6.14 (s, 1H); 4.39 (s, 2H); 3.40 (s, 2H); 2.60 (multiplet, 6H); 1.06 (t, 6H).

reactant | ammonium hydroxide | 6 ml | [OH-].[NH4+]
reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride | 0.0093 mole, 3.0 grams | Cl.NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O
solvent | water | three to four ml | O | H2O
product | 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O | C13H20ClN3O2
